US04835291
Separately, a solution was prepared by mixing 18.2 g of 4-methoxy-4'-dimethylaminobenzophenone (melting at 126°-127° C.) and 100 ml of tetrahydrofurane, and the solution was slowly added to the liquid reaction mixture and the whole matter was stirred for one hour at a temperature of 40° to 50° C. Then the whole matter was mixed with 400 ml of water and 300 ml of toluene and after making the mixture weakly acidic by dilute hydrochloric acid, the acidified mixture was stirred for a whole at 80° C. and separated into an aqueous layer and an organic layer (toluene layer). After adding activated carbon to the toluene layer and filtering the layer while hot, toluene was distilled off from the filtrate to obtain 17.1 g of 1-(p-methoxyphenyl)-1-(p-dimethylaminophenyl)ethylene of pale yellow in color, melting at 123°-125° C.

reactant | 4-methoxy-4'-dimethylaminobenzophenone | 18.2 g | COC1=CC=C(C(=O)C2=CC=C(C=C2)N(C)C)C=C1 | C16H17NO2
reactant | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
reactant | water | 400 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(p-methoxyphenyl)-1-(p-dimethylaminophenyl)ethylene | 17.1 g | COC1=CC=C(C=C1)C(=C)C1=CC=C(C=C1)N(C)C | C17H19NO
